US05034410
(3-chloro-4-nitroaniline)
To concentrated HCl (15 mL) at reflux under nitrogen was added N-acetyl-3-chloro-4-nitroaniline (3 g, 0.014 mol). The reaction mixture was stirred for 3 hours. A white precipitate formed upon cooling to room temperature. The reaction mixture was then diluted with water, extracted with ethyl acetate and dried over sodium sulfate. The solvent was then removed under reduced pressure to afford 2.1 g (87%) of the title compound, 3-chloro-4-nitroaniline, as a yellow solid; m.p. 157°-158° C.

reactant | HCl | 15 mL | Cl | ClH
reactant | N-acetyl-3-chloro-4-nitroaniline | 0.014 mol, 3 g | C(C)(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])Cl | C8H7ClN2O3
solvent | water | O | H2O
product | 3-chloro-4-nitroaniline | 2.1 g, 87% | ClC=1C=C(N)C=CC1[N+](=O)[O-] | C6H5ClN2O2
